US07183276B2
A mixture of 3-[4-(4-chlorophenyl)-2-phenyl-5-oxazolyl]-N-[4-(ethoxycarbonyl)phenyl]propionamide (0.70 g), potassium hydroxide (0.26 g), ethanol (20 ml) and tetrahydrofuran (10 ml) was stirred at room temperature for 5 hrs and further stirred at 50° C. for 3 hrs. The reaction mixture was poured into water and acidified with 1N hydrochloric acid. The mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water and then with saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give a colorless powder. Recrystallization from chloroform-ethanol gave 4-({3-[4-(4-chlorophenyl)-2-phenyl-5-oxazolyl]propanoyl}amino)benzoic acid as colorless prism crystals (0.51 g, 75%). melting point: 243–244° C.

reactant | 3-[4-(4-chlorophenyl)-2-phenyl-5-oxazolyl]-N-[4-(ethoxycarbonyl)phenyl]propionamide | 0.70 g | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)NC1=CC=C(C=C1)C(=O)OCC)C1=CC=CC=C1 | C27H23ClN2O4
reactant | potassium hydroxide | 0.26 g | [OH-].[K+]
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-({3-[4-(4-chlorophenyl)-2-phenyl-5-oxazolyl]propanoyl}amino)benzoic acid | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)NC1=CC=C(C(=O)O)C=C1)C1=CC=CC=C1 | C25H19ClN2O4
